US06353025B1
Ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate (500 mg) was dissolved in 1N aqueous sodium hydroxide solution (5.0 ml), and the solution was stirred for 1 hour at room temperature. To the reaction mixture was added 1N hydrochloric acid (5.0 ml) under ice-cooling with stirring, and collection of the resulting precipitates by filtration gave N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]-aminoacetic acid (464 mg).

reactant | Ethyl N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]aminoacetate | 500 mg | ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)OCC | C21H26Cl2N2O4
reactant | hydrochloric acid | 1N, 5.0 ml | Cl | ClH
solvent | sodium hydroxide | 1N, 5.0 ml | [OH-].[Na+]
product | N-[2,6-dichloro-4-[2-[[(1S, 2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethyl]phenyl]-aminoacetic acid | 464 mg | ClC1=C(C(=CC(=C1)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C)Cl)NCC(=O)O | C19H22Cl2N2O4
